Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vancomycin / Iodine; Iodine Containing / Meropenem / Ceftriaxone 
/ Ciprofloxacin / Flagyl
 
Attending: ___.
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
The patient is a ___ woman with past medical history of 
AML (erythroleukemia) s/p MRD PBSCT ___ ___/b GVHD 
presenting with a chief complaint of fever. She is approximately 
one year out from an allogenic stem cell transplant for 
erythroleukemia who called with a low grade temperature of 
100.7. She has been feeling well otherwise and has no specific 
symptoms. She noted that her cheeks were red and that led her to 
take her temperature. She denies chest pain, dyspnea, cough, 
sore throat, nasal congestion, abdominal pain, diarrhea, or 
chills. She recently had a hospitalization for fever and 
diarrhea. She recovered completely. Of note, she is currently on 
prednisone 5 mg for immunosuppression, and this was recently 
tapered from 10mg on ___. In addition, she had a CT chest while 
hospitalized which showed ground glass opacities on the right. 
She was due for a repeat CT in several weeks, but a repeat scan 
in the ed showed no acute pulmonary process. Blood cultures and 
cmv antibodies were drawn in the ed. Cultures from her previous 
admission and cmv viral load have been negative. Afebrile in the 
ed, has not received antibiotics. She reports that her grandson 
was visiting and had a febrile illness thought to be viral. she 
reports drinking around 2.5 liters daily.  
.  

 
Past Medical History:
- AML  
- Hypertension  
- Hypercholesterolemia  
- GERD  
- Type two diabetes mellitus - diet controlled  
- Diverticulosis, noted on colonoscopy ___ years ago  
- Occasional bronchospasm treated with Primatene Mist  
- h/o SVC clot ___ PORT (s/p course of lovenox)  
- h/o C.Diff ___ & ___  
.  
ONCOLOGIC HISTORY (from OMR):  
The patient was diagnosed with AML in ___ on routine blood work 
that showed pancytopenia, bone marrow biopsy showed 
myelodysplasia with no cytogenetic abnormalities, repeat bone 
marrow biopsy showed acute erythroleukemia admitted ___ for 
induction chemotherapy with 7+3 cytarabine and idarubicin, which 
she tolerated well, Day 14 bone marrow showed zero blasts, 
consistent with complete ablation. She then underwent allogeneic 
transplantation from an HLA matched sibling donor with 
pentostatin/TBI in ___ c/b mild GVHD, skin (mouth ___ and 
colon (preliminary colon bx suggestive of gvhd ___, however 
final diagnosis of no definitive diagnosis of graft-versus-host 
disease communicated after the case has been reviewed).  

 
Social History:
___
Family History:
The patient's mother with a history of stroke. Both of her 
maternal and paternal grandmothers also had a history of CVA. 
Father with history of colon ___. No other known history of 
cancer in the family. No known blood disorders. Has a sister 
with ___. She has 2 sisters, the other sister with 
hypertension. 
 
Physical Exam:
vs t98.5 hr101->85 bp133/62 rr12 o2 98%ra  
gen awake, alert, no distress  
heent mmm, perrl  
neck neck supple, no jvp, no carotid bruits  
cv nl s1s2 no mrg  
pulm cta b  
gi +bs abd soft, nontender  
ext 2+ femoral pulses no inguinal lad  
skin warm dry, peeling on soles of feet, no obvious skin 
breakdown  
neuro cn ii-xii intact, motor ___, plantar flexion, nl light 
touch  
.  

 
Pertinent Results:
___ 09:17PM URINE  HOURS-RANDOM
___ 09:17PM URINE  GR HOLD-HOLD
___ 09:17PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 09:17PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-100 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 08:46PM   K+-4.2
___ 06:41PM   GLUCOSE-227* UREA N-16 CREAT-1.2* SODIUM-131* 
POTASSIUM-6.9* CHLORIDE-101 TOTAL CO2-19* ANION GAP-18
___ 06:41PM   ALT(SGPT)-25 AST(SGOT)-65* ALK PHOS-67 TOT 
BILI-0.3
___ 06:41PM   WBC-8.0 RBC-3.65* HGB-12.5 HCT-36.2 MCV-99* 
MCH-34.1* MCHC-34.5 RDW-16.2*
___ 06:41PM   NEUTS-74.9* ___ MONOS-4.0 EOS-0.6 
BASOS-0.1
___ 06:41PM   PLT COUNT-152
___ 06:40PM   LACTATE-2.1*
.
Micro data:
___: CMV Antibody positive
___: Blood culture NG final x2.
___: Urine culture NG final.
___: CMV viral load not detected.
___: Blood culture myco/f bottle: No growth to date.
___: Blood culture NG final x2.
___: Urine culture: Coag negative staph 10,000-100,000 
organisms/mL.
___: Rapid respiratory panel: Negative, culture pending.
.
CT Chest ___:

IMPRESSION:
1. Interval resolution of predominantly right-sided ground-glass 
opacities with clear lungs.
2. Saccular aneurysm arising from the inferior aspect of the 
aortic arch is better evaluate on the recent CT chest with 
contrast.

 
Brief Hospital Course:
Patient is a ___ woman with AML status post stem cell 
transplant and graft-versus-host disease, who presented with 
temperature to 100.3, mild elevation in creatinine, and mild 
hyponatremia  
.  
# Fever: Patient had no clear source or localizing signs on 
history or exam. Her culture data was monitored as noted above, 
and she was not treated with any antibiotics. She continued on 
her outpatient regimen of prophylaxis with acyclovir and 
fluconazole. Infectious disease team was consulted and assisted 
with management and work-up of her fevers. She had no further 
fevers during her admission and remained hemodynamically stable.
.  
# Ground glass opacity on chest CT: There was noted to be 
interval improvement since last chest CT. This will continue to 
be managed and followed on an outpatient basis.  
.  
# Hypertension: Patient is not on any medications as an 
outpatient. She remained normotensive and did not require any 
antihypertensive agents.  
.  
# Hyponatremia: This resolved shortly after admission. A TSH and 
osmolality were within normal limits.  
.  
# Adrenal insufficiency: Patient was recently tapered from 10 mg 
prednisone daily down to 5 mg. She underwent ___ stim test 
during her admission which did not demonstrate a response. She 
is chronically on steroids and has history of needing steroid 
dose steroids during prior admissions.  Endocrinology was 
consulted to help manage her steroid dose, and she was continued 
on 10 mg of prednisone daily. She will follow up with endocrine, 
with a goal of tapering down her steroids over several month's 
time. In setting of any acute infection, she will need stress 
dose steroids to be administered.
.  
# Elevated creatinine: Her creatinine returned to her baseline 
of 0.9-1.0 shortly after admission.  
.  
# Prophylaxis: Patient ambulated regularly and received a bowel 
regimen as needed.  
.  
# FEN: She tolerated a regular diet well. Her electrolytes were 
monitored and repleted as needed.  
.  
# Code: She was full code during her admission.  
.  

 
Medications on Admission:
- Docusate Sodium 100 mg PO BID  
- Pantoprazole 40 mg PO Q12H  
- PredniSONE 10 mg PO DAILY  
- Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES HS  
- Clobetasol Propionate 0.05% Ointment 1 Appl TP  
- Aspirin 81 mg PO DAILY  
- Lorazepam 0.5 mg PO Q4-6H:PRN  
- Fluconazole 200 mg PO Q24H  
- Acyclovir 400 mg PO Q8H  

 
Discharge Medications:
1. Acyclovir 200 mg Capsule Sig: Two (2) Capsule PO Q8H (every 8 
hours).  
2. Fluconazole 200 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours).  
3. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
4. Clobetasol 0.05 % Ointment Sig: One (1) Appl Topical BID (2 
times a day) as needed for rash.  
5. Prednisone 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily): 
Continue 10 mg daily unless directed otherwise.  
6. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
7. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO Q4-6H () as 
needed.  
8. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: 
- Fever 
Secondary diagnoses: 
- AML status post stem cell transplant 
- Graft versus host disease 
- Adrenal insufficiency 

 
Discharge Condition:
Stable, afebrile, pain-free for over 36 hours, tolerating 
regular diet with difficulty.

 
Discharge Instructions:
You were admitted due to fevers and a rash noted on your face. 
Your fevers resolved without any intervention, and no source of 
infection was found. You tested negative for the flu. 
.
Please contact your oncologist, primary care physician, or go to 
the emergency room if you experience any fevers above 100.4, 
chills, new rashes or lesions, chest pain, difficulty breathing, 
cough, congestion, diarrhea, or other concerning symptoms.
.
No change to your medications have been made aside from your 
prednisone, which was increased to 10 mg daily. Please discuss 
tapering this with Dr. ___ endocrinology) and Dr. 
___ at your follow up appointments, as it will likely be done 
over several months. If you become ill, your dose ___ also need 
to be increased.
 
Followup Instructions:
___